US07312222B2
Part A. Preparation of (+/−)-2-(phenylmethoxymethyl)oxirane.
To a stirring solution of (+/−)-2-(hydroxymethyl)oxirane (3.0 g, 40.5 mmol, Aldrich) in dry DMF (40 mL) was added sodium hydride (883 mg, 36.8 mmol, Aldrich). The reaction was stirred for 7 min when benzyl bromide (6.3 g, 36.8 mmol, Aldrich) was added. The reaction was stirred for 2 h and then quenched by the addition of water (50 mL). The reaction was extracted with EtOAc (4×50 mL). The organic layers were combined, washed with brine, dried over Na2SO4, and conc. in vacuo to a yellow oil. The oil was purified by flash chromatography (SiO2, 5–20% EtOAc in hexanes) to yield 4.15 g of a colorless oil. MS (ESI) 164 (M+H).

reactant | (+/−)-2-(hydroxymethyl)oxirane | 40.5 mmol, 3.0 g | OCC1OC1 | C3H6O2
reactant | sodium hydride | 36.8 mmol, 883 mg | [H-].[Na+]
reactant | benzyl bromide | 36.8 mmol, 6.3 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | (+/−)-2-(phenylmethoxymethyl)oxirane | 4.15 g | C1(=CC=CC=C1)COCC1OC1 | C10H12O2
